*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :2012M(0805)/C0G(-55to125[deg])/1.00e-04[uF]/250[V]
* Murata P/N :GCM21A5C2E101FX01
* Property : C = 1.00e-04[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100[MHz]-3[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GCM21A5C2E101FX01 Port1 Port2
C01 Port1 N01 1.00e-10
R01 Port1 N01 1.00e+11
L02 N01 N02 2.80e-10
R03 N02 N03 1.14e-01
C04 N03 N04 5.46e-08
R04 N03 N04 2.72e-01
C05 N04 N05 7.34e-10
L05 N04 N05 1.23e-11
R05 N04 N05 8.96e-01
C06 N05 N06 9.94e-11
L06 N05 N06 3.40e-11
R06 N05 N06 2.49e+00
C07 N06 N07 4.56e-10
L07 N06 N07 1.89e-12
R07 N06 N07 1.40e-01
C08 N07 Port2 1.26e-12
L08 N07 Port2 2.50e-10
R08 N07 Port2 5.22e+01
.ENDS GCM21A5C2E101FX01
